US04377580
To a mixture of 4,6-diaminoquinazoline hydrochloride (10.0 g), tripropylamine (17.61 g) and dry pyridine (100 ml) was added dropwise during 35 minutes 3,3-dimethylbutyryl chloride (10.34 g) under ice-cooling. The reaction mixture was stirred for 2 hours at the same temperature. To the resultant mixture was added ice-water. The mixture was stirred for 5 minutes and then concentrated under reduced pressure. To the residue was added water and sodium hydrogen carbonate (13.0 g) little by little to give precipitates, which were separated by filtration, washed with water and dried. Thus obtained crude crystals were dissolved in a mixture of chloroform and methanol under heating. After insoluble materials were removed by filtration, the filtrate was concentrated under reduced pressure to give a residue, which was suspended in 5% methanol-chloroform solution (70 ml). After stirring under heating, the suspension was filtered to give crystalline 4-amino-6-(3,3-dimethylbutyramido)quinazoline (8.5 g).

reactant | 4,6-diaminoquinazoline hydrochloride | 10.0 g | Cl.NC1=NC=NC2=CC=C(C=C12)N
reactant | tripropylamine | 17.61 g | C(CC)N(CCC)CCC | C9H21N
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,3-dimethylbutyryl chloride | 10.34 g | CC(CC(=O)Cl)(C)C | C6H11ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
solvent | methanol chloroform | 70 ml | CO.C(Cl)(Cl)Cl
product | 4-amino-6-(3,3-dimethylbutyramido)quinazoline | 8.5 g | NC1=NC=NC2=CC=C(C=C12)NC(CC(C)(C)C)=O | C14H18N4O
